US06258829B1
Methyl 2-methyl-8-oxo-5,6,7,8-tetrahydrocyclohexa[b]pyridine-3-carboxylate
Methyl 8-hydroxy-2-methyl-5,6,7,8-tetrahydrocyclohexa[b]pyridine-3-carboxylate (3.95 g, 17.9 mmol) was dissolved in dichloromethane (80.0 ml), and the solution was mixed with activated manganese dioxide (23.29 g) and stirred at room temperature for 30 minutes. The reaction solution was diluted with ethyl acetate and then purified by a short column chromatography (ethyl acetate) and recrystallization (ethyl acetate-ether) to obtain the title compound (975.1 mg, 24.9%) as pale yellow needle crystals.

reactant | Methyl 8-hydroxy-2-methyl-5,6,7,8-tetrahydrocyclohexa[b]pyridine-3-carboxylate | 17.9 mmol, 3.95 g | OC1CCCC=2C1=NC(=C(C2)C(=O)OC)C | C12H15NO3
solvent | dichloromethane | 80.0 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | manganese dioxide | 23.29 g | [O-2].[O-2].[Mn+4]
product | Methyl 2-methyl-8-oxo-5,6,7,8-tetrahydrocyclohexa[b]pyridine-3-carboxylate | 975.1 mg, 24.9% | CC1=C(C=C2C(=N1)C(CCC2)=O)C(=O)OC | C12H13NO3
